US06458781B1
Preparation of (S)-(1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazine-1-carbonyl}-3-methyl-butyl)-carbamic acid tert-butyl ester
N-tert-Butoxycarbonyl-L-leucine monohydrate (4.32 g, 17.3 mmol, Bachem Inc., Torrance, Calif.) was dissolved in dry DMF (33 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (6.04 mL, 34.7 mmol) and solid -benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (6.58 g, 17.4 mmol). The resulting reaction mixture was stirred at that temperature for 35 minutes; solid 1-bis(4-fluorophenyl)methyl piperazine (5.00 g, 17.3 mmol) was then added. After stirring for, sequentially, 15 minutes at 0° C. and 30 minutes at ambient temperature, reaction mixture was mixed with 120 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×120 mL), brine (2×120 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a viscous oil. The crude product was further purified by flash chromatography (30% EtOAc in hexanes) to provide 8.23 g (94%) of the pure titled compound as a off-white foam: mp 59-66° C. APCI-MS m/z 502.4 (MH+).

reactant | N-tert-Butoxycarbonyl-L-leucine monohydrate | 17.3 mmol, 4.32 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N,N-diisopropylethylamine | 34.7 mmol, 6.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 17.4 mmol, 6.58 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-bis(4-fluorophenyl)methyl piperazine | 17.3 mmol, 5.00 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | (S)-(1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazine-1-carbonyl}-3-methyl-butyl)-carbamic acid tert-butyl ester | 8.23 g, 94% | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(=O)N1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C28H37F2N3O3
